US07314886B2
22.A. Synthesis of (1-Ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester
A mixture of tryptophol (1.612 g, 10 mmol), ethyl propionylacetate (1.730 g, 12 mmol), and p-toluenesulfonic acid monohydrate (0.20 g) in benzene (70 mL) was heated to reflux for 5 hours. It was quenched with ethyl acetate and washed with saturated sodium bicarbonate. The organic layer was dried over magnesium sulfate, evaporated to dryness. Flash chromatography on silica gel provided 1.943 g (68%) of the title compound as a solid. mp<80° C. 1H NMR (300 MHz, CDCl3) δ 9.06 (br, 1H), 7.50 (d, 1H), 7.36 (d, 1H), 7.14 (t, 1H), 7.12 (t, 1H), 4.18 (q, 2H), 4.03 (m, 1H), 3.94 (m, 1H), 2.99 (d, 1H), 2.88 (d, 1H), 2.78 (m, 2H), 2.14 (m, 1H), 2.01 (m, 1H), 1.25 (t, 3H), 0.82 (t, 3H); ESI (+) MS m/e=288 (MH+), ESI (−) MS m/e=286 (MH−).

reactant | tryptophol | 10 mmol, 1.612 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | ethyl propionylacetate | 12 mmol, 1.730 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | p-toluenesulfonic acid monohydrate | 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | (1-Ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | 1.943 g, 68% | C(C)OC(CC1(OCCC2=C1NC1=CC=CC=C21)CC)=O | C17H21NO3
